US07173135B2
(2E)-3-[4-(3-cyano-6,7-dimethoxyquinolin-4-ylamino)-2,3-methylenedioxyphenyl]acrylic acid
A mixture of methyl (2E)-3-[4(3-cyano-6,7-dimethoxyquinolin-4-ylamino)-2,3-methylenedioxyphenyl]acrylate (0.75 g), a 1N aqueous sodium hydroxide solution (12 ml) and methanol (45 ml) was stirred and warmed to 40° C. for 12 hours. The reaction mixture was evaporated. Water was added and the mixture was acidified by the addition of 2N aqueous hydrochloric acid solution. The resultant precipitate was isolated and dried. There was thus obtained the title compound as a solid (0.703 g); NMR Spectrum: (DMSOd6) 3.98 (s, 6H), 6.19 (s, 2H), 6.59 (d, 1H), 7.02 (d, 1H), 7.28 (d, 1H), 7.48 (s, 1H), 7.55 (d, 1H), 8.09 (s, 1H), 8.95 (s, 1H); Mass Spectrum: M+H+ 420.

reactant | methyl (2E)-3-[4(3-cyano-6,7-dimethoxyquinolin-4-ylamino)-2,3-methylenedioxyphenyl]acrylate | 0.75 g | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)/C=C/C(=O)OC)OCO2)OC)OC | C23H19N3O6
reactant | sodium hydroxide | 1N, 12 ml | [OH-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
product | (2E)-3-[4-(3-cyano-6,7-dimethoxyquinolin-4-ylamino)-2,3-methylenedioxyphenyl]acrylic acid | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C2C(=C(C=C1)/C=C/C(=O)O)OCO2)OC)OC | C22H17N3O6
